US06858599B2
Synthesis of ethyl 2-(2-hydroxy-3-methoxypropylamino)acetate
A solution of glycidyl methyl ether (1.00 g) and glycine ethyl ester (5.91 g) in ethanol was stirred overnight, and concentrated under reduced pressure to obtain the title compound (2.17 g).

reactant | glycidyl methyl ether | 1.00 g | COCC1CO1 | C4H8O2
reactant | glycine ethyl ester | 5.91 g | C(C)OC(CN)=O | C4H9NO2
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-(2-hydroxy-3-methoxypropylamino)acetate | 2.17 g | OC(CNCC(=O)OCC)COC | C8H17NO4
